simulator lang=spectre
global 0

ahdl_include "./dut/coarse_qtz_3bit_residue.va"

Vin (vin 0) vsource type=pwl wave=[0 -1.2 0.9n -1.2 0.95n -0.6 1.8n -0.6 1.85n 0.1 2.7n 0.1 2.75n 0.9 3.8n 0.9]
XDUT (vin d0 d1 d2 vres) coarse_qtz_3bit_residue

simulatorOptions options evas_profile=balanced

tran tran stop=3.5n maxstep=5p
save vin d0 d1 d2 vres
